US08486953B2
Preparation of 6-(furan-3-yl)-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine
A solution of 6-chloro-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine (0.259 g, 1.00 mmol), furan-3-boronic acid (0.123 g, 1.10 mmol), tetrakis(triphenylphosphine)palladium (0) (0.058 g, 0.05 mmol) and potassium carbonate (0.276 g, 2.00 mmol) in 1,4-dioxane/water (5 mL, 4:1) was de-gassed with nitrogen and then heated at 80° C. for 18 hours. The reaction mixture was diluted with EtOAc, washed with water and brine. The organic phase was dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with n-hexane to afford the title compound as an off-white solid (0.197 g, 66%).

reactant | 6-chloro-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 1.00 mmol, 0.259 g | ClC1=CC=C(C(=N1)OC1CCOCC1)[N+](=O)[O-] | C10H11ClN2O4
reactant | furan-3-boronic acid | 1.10 mmol, 0.123 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | potassium carbonate | 2.00 mmol, 0.276 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane water | 5 mL | O1CCOCC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(furan-3-yl)-3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 0.197 g, 66% | O1C=C(C=C1)C1=CC=C(C(=N1)OC1CCOCC1)[N+](=O)[O-] | C14H14N2O5
